US06541473B2
trans-4-(2,4-Dihydroxyphenyl)cyclohexyl Methyl Imidodicarbonate
N,N-Diisopropylethylamine (497 μl) and ethylisocyanatoformate (177 μl) were added to a stirred solution of trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanol (250 mg) in anhydrous dimethylformamide (2 ml). After 120 hr at 50° C., the reaction mixture was partitioned between ethyl acetate (50 ml) and water (50 ml). The aqueous layer was extracted with ethyl acetate (2×50 ml). The combined organic extracts were washed with brine (50 ml), dried over magnesium sulfate and evaporated in vacuo. The residue was dissolved in methanol (10 ml) and was stirred with fluoride resin (300 mg) for 16 hr at room temperature. The suspension was filtered through a pad of celite, which was washed well with methanol. The combined filtrates were concentrated in vacuo and the residue was purified using flash column chromatography (SiO2, ethyl acetate/petrol, 1:3 v/v) and then preparative HPLC to give the title compound (4 mg, 2%) as a pale yellow gum. δH (CD3OD) 1.20-1.40 (4H, m), 1.55 (3H, t), 1.80-1.90 (2H, m), 2.00-2.18 (2H, m), 2.72-2.82 (1H, m), 4.20 (2H, q), 6.20-6.25 (2H, m), 6.84 (1H, d); m/z(ES−) 322 (M−H−).

reactant | N,N-Diisopropylethylamine | 497 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethylisocyanatoformate | 177 μl | C(C)OC(=O)N=C=O | C4H5NO3
reactant | trans-4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexanol | 250 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@@H]1CC[C@H](CC1)O | C24H44O3Si2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | trans-4-(2,4-Dihydroxyphenyl)cyclohexyl Methyl Imidodicarbonate | 4 mg, 2% | C(=O)(O[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)O)O)NC(=O)OC | C15H19NO6
